US07683185B2
6-(Naphthalen-2-ylsulfanyl)-hexa-2,4-dienoic acid hydroxyamide (14a).
To a solution of 6-(naphthalen-2-ylsulfanyl)-hexa-2,4-dienoic acid methyl ester (0.505 g, 1.78 mmol) in distilled THF (10 mL) containing 50% aqueous hydroxylamine (1.08 mL, 16.4 mmol) was added at 0° C. a solution of potassium hydroxide in methanol (1M, 2.5 ml, 2.5 mmol) over a period of 30 minutes. After stirring the mixture at 0° C. for an additional hour, distilled water (10 mL) was added and the mixture was made neutral by dropwise addition of concentrated hydrochloric acid (10 M) at 0° C. The solution was extracted with ethyl acetate (2×50 mL), and the combined extracts were dried over anhydrous MgSO4, and evaporated to dryness. The solid residue was recrystallised from ethyl acetate to give the title compound (0.315 g, 62%) as a white solid.

reactant | 6-(naphthalen-2-ylsulfanyl)-hexa-2,4-dienoic acid methyl ester | 1.78 mmol, 0.505 g | COC(C=CC=CCSC1=CC2=CC=CC=C2C=C1)=O | C17H16O2S
reactant | hydroxylamine | 16.4 mmol, 1.08 mL | NO | H3NO
reactant | potassium hydroxide | [OH-].[K+]
reactant | methanol | 2.5 mmol, 1M, 2.5 ml | CO | CH4O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 6-(Naphthalen-2-ylsulfanyl)-hexa-2,4-dienoic acid hydroxyamide | 0.315 g, 62% | ONC(C=CC=CCSC1=CC2=CC=CC=C2C=C1)=O | C16H15NO2S
